US07018988B2
(2S,4EZ)-4-[(benzyloxy)imino]-N-[2-(diethylamino)ethyl]-1-(4-phenoxybenzoyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 4-phenoxybenzoyl chloride, and N1,N1-diethyl-1,2-ethanediamine the title compound was obtained in 86% purity by LC/MS. MS(ESI+): m/z=529.6.

reactant | (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H22N2O5
reactant | 4-phenoxybenzoyl chloride | O(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO2
reactant | N1,N1-diethyl-1,2-ethanediamine | C(C)N(CCN)CC | C6H16N2
product | (2S,4EZ)-4-[(benzyloxy)imino]-N-[2-(diethylamino)ethyl]-1-(4-phenoxybenzoyl)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(C1=CC=C(C=C1)OC1=CC=CC=C1)=O)C(=O)NCCN(CC)CC | C31H36N4O4
